US05476933
Preparation of 2-Bromo-5-methoxybenzoquinone (89).
To a vigorously stirred solution of NaIO4 (7.81 g, 36.5 mmol, Baker) in H2O (200 mL) there was added a solution of 2-bromo-5-methoxyhydroquinone (4.00 g, 18.3 mmol) in CHCl3 (150 mL, prepared with warming). The reaction immediately turned dark and then became orange over a period of time. The reaction was allowed to stir at rt for 30 min. The layers were separated and the aqueous portion extracted with CHCl3 (1×30 mL). The combined CHCl3 portion was washed with brine (1×30 mL), filtered through cotton, and the solvent removed in vacuo to give a mustard yellow solid (4.0 g, 100%, pure by TLC); mp 184°-186° C. Crystallization of a 50 mg sample from MeOH (dissolved in 5 mL of MeOH, allowed to cool to rt) yielded orange needles (43 mg, 86% recovery); mp 186°-187° C., lit 190°-191° C. (Blatchly, J. M.; Green, R. J. S.; McOmie, J. F. W.; Searle, J. B. J. Chem. Soc. (C),1353-1355 (1969)); 1H NMR (CDCl3) δ3.86 (s, 3H), 6.12 (s, 1H), 7.24 (s, 1H); IR (KBr) 3044 (m), 1669 (s), 1649 (s), 1623 (s), 1584 (s), 1197 (s), 1169 (s).

reactant | 2-bromo-5-methoxyhydroquinone | 18.3 mmol, 4.00 g | BrC1=C(O)C=C(C(=C1)O)OC | C7H7BrO3
reactant | KBr | [K+].[Br-]
solvent | H2O | 200 mL | O | H2O
solvent | CHCl3 | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-5-methoxybenzoquinone | BrC=1C(C=C(C(C1)=O)OC)=O | C7H5BrO3
